US08008321B2
3-[3-(Methoxycarbonyl)-4-nitrobenzoyl]imidazo[1,5-a]pyridine-6-carboxylic acid
2.13 ml (28.68 mmol) of trifluoroacetic acid are added to 610 mg (1.43 mmol) of tert-butyl 3-[3-(methoxycarbonyl)-4-nitrobenzoyl]imidazo[1,5-a]pyridine-6-carboxylate in 2 ml of dichloromethane and the mixture is stirred at ambient temperature for 5 hours. The reaction medium is concentrated under reduced pressure and then the residue obtained is taken up in acetone. The precipitate formed is filtered off, washed with acetone and dried. 450 mg of a yellow powder are obtained. Melting point: 290° C.; 1H NMR (d6-DMSO): 3.90 (3H, s), 7.78 (1H, d), 8.04 (1H, s), 8.12 (1H, d), 8.26 (1H, d), 8.68 (1H, d), 8.75 (1H, s), 10.26 (1H, s)

reactant | trifluoroacetic acid | 28.68 mmol, 2.13 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 3-[3-(methoxycarbonyl)-4-nitrobenzoyl]imidazo[1,5-a]pyridine-6-carboxylate | 1.43 mmol, 610 mg | COC(=O)C=1C=C(C(=O)C2=NC=C3N2C=C(C=C3)C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C21H19N3O7
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
product | 3-[3-(Methoxycarbonyl)-4-nitrobenzoyl]imidazo[1,5-a]pyridine-6-carboxylic acid | 450 mg | COC(=O)C=1C=C(C(=O)C2=NC=C3N2C=C(C=C3)C(=O)O)C=CC1[N+](=O)[O-] | C17H11N3O7
